US06458780B1
A solution of 725 mg of 7-methanesulfonylimidazo[5,1-b]thiazole in 35 ml of THF was cooled in an argon atmosphere to −70° C. A 1 N-lithiumbis(trimethylsilyl)amide/THF solution (3.9 ml) was added dropwise thereto at the same temperature. The mixture was stirred for 30 min. Thereafter, 0.25 ml of methyl iodide was added thereto. The mixture was stirred at the same temperature for 70 min. A saturated aqueous sodium chloride solution was added thereto, followed by extraction four times with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:methanol=9:1) to give 0.79 g of 7-ethanesulfonylimidazo[5,1-b]thiazole.

reactant | 7-methanesulfonylimidazo[5,1-b]thiazole | 725 mg | CS(=O)(=O)C=1N=CN2C1SC=C2 | C6H6N2O2S2
reactant | lithiumbis(trimethylsilyl)amide THF | 3.9 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | methyl iodide | 0.25 ml | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 7-ethanesulfonylimidazo[5,1-b]thiazole | 0.79 g | C(C)S(=O)(=O)C=1N=CN2C1SC=C2 | C7H8N2O2S2
